US04343815
Di-t-butyltin dichloride.
The Grignard reagent from t-butyl chloride (92.5 g., 1 mole), magnesium (24.3 g., 1 mole) and tetrahydrofuran (11.) was added dropwise to a solution of tin(iv) chloride (104 g., 0.4 mole) in heptane (11.). A vigorous reaction started at once and magnesium chloride precipitated. After completion of the addition, the mixture was refluxed for 4 hrs. Cooling and work-up gave a yellow oil. This was distilled to give the desired product as a clear oil which solidified readily (70.0 g., 58%), m.p. 42°-43° (lit., 142°); b.p. 66°/3 mm.; n.m.4. 81.45(s).

reactant | t-butyl chloride | 1 mole, 92.5 g | C(C)(C)(C)Cl | C4H9Cl
reactant | magnesium | 1 mole, 24.3 g | [Mg] | Mg
reactant | tin(iv) chloride | 0.4 mole, 104 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | magnesium chloride | [Cl-].[Mg+2].[Cl-]
solvent | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Di-t-butyltin dichloride | C(C)(C)(C)[Sn](C(C)(C)C)(Cl)Cl | InChI=1S/2C4H9.2ClH.Sn/c2*1-4(2)3;;;/h2*1-3H3;2*1H;/q;;;;+2/p-2
